US07256186B2
To a solution of D-pyroglutamic acid methyl ester (10.2 g, 71.2 mmol) in 240 mL of Et3N/CH3CN (3:1) was added DMAP (0.91 g, 7.4 mmol, 0.1 eq) followed by di-tert-butyl dicarbonate (31.7 g, 145 mmol, 2 eq). After stirring at room temperature for 3 hr, the reaction mixture was diluted with EtOAc (730 mL), washed with 3% HCl, saturated NaHCO3, and brine, dried (Na2SO4), and concentrated under vacuum. The crude product was purified using silica gel chromatography (10–30% EtOAc/hexanes) to give 11.6 g (67%) of N-Boc-D-pyroglutamic acid methyl ester as a yellowish solid.

reactant | D-pyroglutamic acid methyl ester | 71.2 mmol, 10.2 g | COC([C@@H]1NC(CC1)=O)=O | C6H9NO3
reactant | di-tert-butyl dicarbonate | 145 mmol, 31.7 g, 2 eq | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | Et3N CH3CN | 240 mL | CCN(CC)CC.CC#N
catalyst | DMAP | 7.4 mmol, 0.91 g, 0.1 eq | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | EtOAc | 730 mL | CCOC(=O)C | C4H8O2
product | N-Boc-D-pyroglutamic acid methyl ester | 11.6 g, 67% | COC([C@@H]1N(C(CC1)=O)C(=O)OC(C)(C)C)=O | C11H17NO5
